US03954753
Preparation of 3-benzoyl-2-(2-bromoacetamido)pyrazine
A solution of 2 g. (0.01 mol) of 2-amino-3-benzoylpyrazine and 20.2 g. (0.1 mol) of 2-bromo-acetyl bromide in 50 ml. of methylene chloride was layered with 25 ml. of 10% aqueous sodium carbonate solution. The two-phase mixture was stirred for 1 hour at room temperature. The methylene chloride layer was separated, washed several times with 10% aqueous sodium carbonate solution and was dried over sodium sulfate. The residue obtained after evaporation was crystallized from methylene chloride/hexane to yield 2.9 g. (90.6%) of the above-named product as tan crystals, m.p. 130°-135° dec.

reactant | 2-amino-3-benzoylpyrazine | 0.01 mol | NC1=NC=CN=C1C(C1=CC=CC=C1)=O | C11H9N3O
reactant | 2-bromo-acetyl bromide | 0.1 mol | BrCC(=O)Br | C2H2Br2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-benzoyl-2-(2-bromoacetamido)pyrazine | C(C1=CC=CC=C1)(=O)C=1C(=NC=CN1)NC(CBr)=O | C13H10BrN3O2
